US04230850
4-(3'-Morpholino-2'-methylpropoxy)-3-phenyl-coumarin
This compound is prepared according to the method of Example 8 from 14.3 g. (0.06 mol) of 4-hydroxy-3-phenyl-coumarin and 16.7 g. (0.078 mol) of 3-morpholino-2-methyl-1-chloropropane hydrochloride. After recrystallisation from ethanol, 18.8 g. are obtained. Yield 82.5% (theoretical yield 22.8 g.); M.P. 113° C.

reactant | 4-hydroxy-3-phenyl-coumarin | 0.06 mol | OC1=C(C(OC2=CC=CC=C12)=O)C1=CC=CC=C1 | C15H10O3
reactant | 3-morpholino-2-methyl-1-chloropropane hydrochloride | 0.078 mol | Cl.O1CCN(CC1)CC(CCl)C
product | 4-(3'-Morpholino-2'-methylpropoxy)-3-phenyl-coumarin | Yield 82.5% | O1CCN(CC1)CC(COC1=C(C(OC2=CC=CC=C12)=O)C1=CC=CC=C1)C | C23H25NO4
